US07576122B2
Step C: N-(3,3-dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-ethylacetamide
To a mixture of 7.7 mg [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid from the Step B Example 1, 6.1 mg HOBt, and 10.2 mg EDC was added 0.5 mL dry DMF. Add 6.6 N-ethyl-3,3-dimethylbutan-1-amine hydrochloride from the Step A above followed by 16 μL DIEA. This solution was heated at 45° C. over night. It was purified directly on RP-HPLC using 65-80% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. LC-MS: 4.38 min. (m/Z=424.3, 318.2, 402.3).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid | 7.7 mg | CC(C(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O5
reactant | HOBt | 6.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-3,3-dimethylbutan-1-amine hydrochloride | Cl.C(C)NCCC(C)(C)C
reactant | DIEA | 16 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EDC | 10.2 mg
product | N-(3,3-dimethylbutyl)-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-ethylacetamide | CC(CCN(C(CC1=C(OC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)=O)CC)(C)C | C24H35NO4
